US07176242B2
3-[(Dipropylamino)carbonyl]-5-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic Acid
A stirred solution of methyl 3-[(dipropylamino)carbonyl]-5-(5-methyl-1,2,4-oxadiazol-3-yl)benzoate (629 mg, 1.8 mmol) and lithium iodide (2.4 g, 18 mmol) in pyridine (7 ml) is refluxed for 18 h. The reaction mixture is cooled to room temperature and the solvent is concentrated under reduced pressure. The residue is dissolved in water, washed with ethyl acetate, the aqueous layer is acidified to pH 3 with 1 N hydrochloric acid and extracted with chloroform (3×100 mL). The organic layer is dried (sodium sulfate), filtered, and concentrated to give the title compound. 1H NMR (500 MHz, CDCl3) δ 11.11 (br s, 1H), 8.85 (t, J=1 Hz, 1H), 8.31 (t, J=1 Hz, 1H), 8.23 (t, J=1 Hz, 1H), 3.51 (s, 2H), 3.19 (s, 2H), 2.72 (s, 3H), 1.73 (d, J=7 Hz, 2H), 1.56 (d, J=7 Hz, 2H), 1.01 (t, J=7 Hz, 3H), 0.76 (t, J=7 Hz, 3H).

reactant | methyl 3-[(dipropylamino)carbonyl]-5-(5-methyl-1,2,4-oxadiazol-3-yl)benzoate | 1.8 mmol, 629 mg | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)C1=NOC(=N1)C)CCC | C18H23N3O4
reactant | lithium iodide | 18 mmol, 2.4 g | [I-].[Li+]
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | 3-[(Dipropylamino)carbonyl]-5-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic Acid | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C1=NOC(=N1)C)CCC | C17H21N3O4
